US08008481B2
A solution of 5-(5-amino-1H-pyrrolo[2,3-c]pyridin-3-yl)-1H-indazole-7-carboxylic acid hydrochloride (Preparation #13, 32.9 mg, 0.10 mmol) and benzylamine (24.0 μL, 0.22 mmol) in DMF (1.0 mL) were treated with o-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (38.0 mg, 0.10 mmol) at ambient temperature and the reaction was stirred for about 1 hour. The reaction was concentrated under reduced pressure and the residue was purified by preparative HPLC (Waters Symmetry C8 column (25×100 mm, 7 μm particle size) using a gradient of 10%-100% CH3CN/0.1% aqueous TFA over 8 min (10 min run time) at a flow rate of 40 mL/min). Product fractions were combined and concentrated to remove organic solvents and then lyophilized to yield N-benzyl 5-(5-amino-1H-pyrrolo[2,3-c]pyridin-3-yl)-1H-indazole-7-carboxamide acetate (10 mg, 23%) as an off-white powder; RP-HPLC (Table 1, Method e) Rt 1.94 min; m/z: (M−H)− 381.

reactant | 5-(5-amino-1H-pyrrolo[2,3-c]pyridin-3-yl)-1H-indazole-7-carboxylic acid hydrochloride | 0.10 mmol, 32.9 mg | Cl.NC=1C=C2C(=CN1)NC=C2C=2C=C1C=NNC1=C(C2)C(=O)O
reactant | benzylamine | 0.22 mmol, 24.0 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | o-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.10 mmol, 38.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-benzyl 5-(5-amino-1H-pyrrolo[2,3-c]pyridin-3-yl)-1H-indazole-7-carboxamide acetate | 10 mg, 23% | C(C)(=O)O.C(C1=CC=CC=C1)NC(=O)C=1C=C(C=C2C=NNC12)C1=CNC2=CN=C(C=C21)N | InChI=1S/C22H18N6O.C2H4O2/c23-20-8-16-18(11-24-19(16)12-25-20)14-6-15-10-27-28-21(15)17(7-14)22(29)26-9-13-4-2-1-3-5-13;1-2(3)4/h1-8,10-12,24H,9H2,(H2,23,25)(H,26,29)(H,27,28);1H3,(H,3,4)
